US06017919
10% Palladium hydroxide-carbon catalyst (300 mg, water content 50%) was added to a solution of 2-[2-(4-benzyloxyphenyl)ethyl]-6-methoxy-5-pentyloxy-2H-isoquinolin-1-one (1.18 g, 2.5 mmol, 1.0 eq) in acetic acid (20 ml), and the mixture was stirred with heating in a stream of hydrogen for 4 hours at 60-70° C. at 3 kgf/cm2. The reaction mixture was cooled to room temperature, and filtered through Celite. The filtrate was concentrated under reduced pressure, and the obtained residue was purified by column chromatography on silica gel (ethyl acetate/hexane=4/1) to give 6-methoxy-2-[2-(4-oxocyclohexyl)ethyl]-5-pentyloxy-3,4-dihydro-2H-isoquinolin-1-one (800 mg, 82.6%) as a pale-yellow oil.

reactant | 2-[2-(4-benzyloxyphenyl)ethyl]-6-methoxy-5-pentyloxy-2H-isoquinolin-1-one | 2.5 mmol, 1.18 g, 1.0 eq | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCN1C(C2=CC=C(C(=C2C=C1)OCCCCC)OC)=O | C30H33NO4
reactant | hydrogen | [H][H] | H2
catalyst | Palladium hydroxide carbon | 300 mg | [OH-].[Pd+2].[OH-].[C]
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 6-methoxy-2-[2-(4-oxocyclohexyl)ethyl]-5-pentyloxy-3,4-dihydro-2H-isoquinolin-1-one | 800 mg, 82.6% | COC=1C(=C2CCN(C(C2=CC1)=O)CCC1CCC(CC1)=O)OCCCCC | C23H33NO4
